US05717106
8-Methoxy-chromene 3-carboxaldehyde (Compound B)
One mole of o-vanillin was stirred with 3 liter H2O and 0.05 mole NaOH. A stream of nitrogen was bubbled through 1.5 moles acrolein and then into the o-vanillin-water mixture. When all the acrolein had been driven into the solution (16 hours) the mixture was acidified with 0.06 mole of HCl and the intermediate product (a light yellow crystalline solid) was filtered off and washed with H2O.

reactant | o-vanillin | One mole | O=CC1=C(O)C(OC)=CC=C1 | C8H8O3
reactant | NaOH | 0.05 mole | [OH-].[Na+]
reactant | acrolein | 1.5 moles | C(=O)C=C | C3H4O
reactant | o-vanillin water | O=CC1=C(O)C(OC)=CC=C1.O
reactant | HCl | 0.06 mole | Cl | ClH
solvent | H2O | 3 liter | O | H2O
product | 8-Methoxy-chromene 3-carboxaldehyde | COC=1C=CC=C2C=C(COC12)C=O | C11H10O3
